US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 52, Step B using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (156 mg, 0.281 mmol) and ammonia in isopropanol (15 mL, 30 mmol), the title compound was obtained as a white solid (56 mg, 35% yield). MS (ESI): 536 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.281 mmol, 156 mg | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)C)NS(=O)(=O)C1=C(C=CC=C1F)F | C23H18Cl2F2N4O2S2
reactant | ammonia | N | H3N
reactant | isopropanol | 30 mmol, 15 mL | C(C)(C)O | C3H8O
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-chlorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)Cl | C23H20ClF2N5O2S2
